US07329764B2
To a stirred lithium diisopropylamide solution (1.8M in heptane/THF/ethylbenzene, 44.1 mL, 79.4 mmol) at −50° C. was added a solution of 2-fluoro-6-methoxybenzonitrile (10 g, 66.16 mmol) in THF (80 mL) slowly and stirring was continued at that temperature for 1 h. The reaction mixture was poured onto a stirred slurry of dry ice in dry THF (100 mL). After the mixture had warmed up to room temperature, it was concentrated to about 50 mL, diluted with 6 N HCl (200 mL), extracted with dichloromethane, dried with sodium sulfate, concentrated, and dried in vacuo to give 3-cyano2-fluoro-4-methoxybenzoic acid (12.9 g, 100%).

reactant | lithium diisopropylamide | 79.4 mmol, 1.8M, 44.1 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-fluoro-6-methoxybenzonitrile | 66.16 mmol, 10 g | FC1=C(C#N)C(=CC=C1)OC | C8H6FNO
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-cyano2-fluoro-4-methoxybenzoic acid | 12.9 g, 100% | C(#N)C=1C(=C(C(=O)O)C=CC1OC)F | C9H6FNO3
